US09216972B2
To a stirred solution of the 4-(4-chlorophenyl)cyclohexanecarboxylic acid (0.5 g, 2.095 mmol) in methanol (10 mL) was added one drop of conc. sulfuric acid. After stirring overnight at room temperature, the reaction mixture was extracted with ethyl acetate and washed with water, saturated sodium bicarbonate and brine. It was then dried over anhyd. magnesium sulfate, concentrated and dried in vacuo to yield methyl 4-(4-chlorophenyl)cyclohexanecarboxylate a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.23-7.30 (2H, m), 7.10-7.17 (2H, m), 3.70 (3H, s), 2.44-2.56 (1H, m), 2.36 (1H, tt, J=12.13, 3.60 Hz), 2.07-2.16 (2H, m), 1.92-2.01 (2H, m), 1.38-1.67 (4H, m).

reactant | 4-(4-chlorophenyl)cyclohexanecarboxylic acid | 2.095 mmol, 0.5 g | ClC1=CC=C(C=C1)C1CCC(CC1)C(=O)O | C13H15ClO2
reactant | methanol | 10 mL | CO | CH4O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | methyl 4-(4-chlorophenyl)cyclohexanecarboxylate | ClC1=CC=C(C=C1)C1CCC(CC1)C(=O)OC | C14H17ClO2
